US06821967B2
9-{4-[4-(1-methyl-1H-benzimidazol-2-yl)-piperazin-1-yl]-butyl}-9H-fluorene-9-carboxylic acid-4-fluoro-benzylamide
Prepared analogously to Example 1 from 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-4-fluoro-benzylamide and 1-methyl-2-piperazin-1-yl-1H-benzimidazole.

reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-4-fluoro-benzylamide | FC1=CC=C(CNC(=O)C2(C3=CC=CC=C3C=3C=CC=CC23)CCCCBr)C=C1 | C25H23BrFNO
reactant | 1-methyl-2-piperazin-1-yl-1H-benzimidazole | CN1C(=NC2=C1C=CC=C2)N2CCNCC2 | C12H16N4
product | 9-{4-[4-(1-methyl-1H-benzimidazol-2-yl)-piperazin-1-yl]-butyl}-9H-fluorene-9-carboxylic acid-4-fluoro-benzylamide | FC1=CC=C(CNC(=O)C2(C3=CC=CC=C3C=3C=CC=CC23)CCCCN2CCN(CC2)C2=NC3=C(N2C)C=CC=C3)C=C1 | C37H38FN5O
